US08222245B2
1,1-Dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate
1,1-Dimethylethyl 7-cyano-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate (Preparation 4) (350 mg, 1.285 mmol), hydroxylamine hydrochloride (223 mg, 3.21 mmol) and sodium bicarbonate (540 mg, 6.43 mmol) were suspended in ethanol (15 ml) and stirred at 55° C. for 5 hours. The reaction mixture was left standing overnight. LC/MS showed a single major product. Inorganics were removed by filtration, washing well with 10% MeOH/DCM to dissolve any precipitated product. Solvent evaporation yielded a white solid. Trituration with ether gave the title compound (320 mg). MS (ES) C16H23N3O3 requires 305; found 306.2 (M+H)+.

reactant | 1,1-Dimethylethyl 7-cyano-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate | 1.285 mmol, 350 mg | C(#N)C=1C=CC2=C(CCCN(C2)C(=O)OC(C)(C)C)C1 | C16H20N2O2
reactant | hydroxylamine hydrochloride | 3.21 mmol, 223 mg | Cl.NO
reactant | sodium bicarbonate | 6.43 mmol, 540 mg | C([O-])(O)=O.[Na+]
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1,1-Dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate | 320 mg | ONC(C=1C=CC2=C(CCCN(C2)C(=O)OC(C)(C)C)C1)=N | C16H23N3O3
